US05763489
A suspension of (5-hydroxy-1,2,3,4-tetrahydro-1-naphthyl)methanol (0.20 g), ethyl bromoacetate (0.15 ml), potassium iodide (catalytic amount) and potassium carbonate (0.20 g) in acetonitrile (10 ml) was stirred under reflux for 2.5 hours. The solvent was removed and the residue was partitioned between ether and 1N hydrochloric acid. The organic layer was washed with water and brine, dried over sodium sulfate, and evaporated in vacuo. The residue was chromatographed (n-hexane-ethyl acetate) over silica gel to afford (5-ethoxycarbonylmethoxy-1,2,3,4-tetrahydro-1-naphthyl)methanol (0.29 g) as an oil.

reactant | (5-hydroxy-1,2,3,4-tetrahydro-1-naphthyl)methanol | 0.20 g | OC1=C2CCCC(C2=CC=C1)CO | C11H14O2
reactant | ethyl bromoacetate | 0.15 ml | BrCC(=O)OCC | C4H7BrO2
reactant | potassium iodide | [I-].[K+]
reactant | potassium carbonate | 0.20 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | (5-ethoxycarbonylmethoxy-1,2,3,4-tetrahydro-1-naphthyl)methanol | 0.29 g | C(C)OC(=O)COC1=C2CCCC(C2=CC=C1)CO | C15H20O4
